data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_161395_1,[C:1]([C:5](=[C:7]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])[O:8][H:10])([C:6]([C:2]([H:13])([H:14])[H:15])=[O:9])([H:11])[H:12]>>[C:1](=[C:5]([C:7]([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:6]([C:2]([H:13])([H:14])[H:15])=[O:9])[O:8][H:10])([H:11])[H:12],54.7700825000085
MR_469329_0,[C:1]([c:5]1[c:6]([C:2]([H:13])([H:14])[H:15])[n:3]([H:9])[c:4](=[O:8])[o:7]1)([H:10])([H:11])[H:12]>>[C:1]([C:5]([C:6]1([C:2]([H:13])([H:14])[H:15])[N:3]([H:9])[C:4]1=[O:8])=[O:7])([H:10])([H:11])[H:12],60.80537750003728
MR_181425_0,[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])([C:6]([C:4]([H:15])([H:16])[H:17])=[O:8])[O:7][H:9]>>[C:1]1([C:3]([H:12])([H:13])[H:14])([O:7][H:9])[C:6]([C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[H:11])([C:4]([H:15])([H:16])[H:17])[O:8]1,60.582614999957656
MR_32968_0,[C@@:1]([C:2]([H:11])([H:12])[H:13])(/[C:5]([C:3]([H:14])([H:15])[H:16])=[C:6](\[C:4]([H:17])([H:18])[H:19])[H:10])([O:7][H:8])[H:9]>>[C:1](\[C:2]([H:11])([H:12])[H:13])(=[C:5](/[C:3]([H:14])([H:15])[H:16])[C@@:6]([C:4]([H:17])([H:18])[H:19])([O:7][H:8])[H:10])[H:9],67.70474000002466
MR_521826_1,[C:1]([C:2](/[C:5](=[C:6](\[C:3]([H:17])([H:18])[H:19])[O:9][H:12])[O:8][H:11])([H:14])[H:15])([C:4]([H:20])([H:21])[H:22])([C:7](=[O:10])[H:16])[H:13]>>[C:1]1([C:4]([H:20])([H:21])[H:22])([H:13])[C:2]([H:14])([H:15])[C:5]1([C:6]([C:3]([H:17])([H:18])[H:19])([C:7](=[O:10])[H:16])[O:9][H:12])[O:8][H:11],45.74725999999629
MR_605051_0,[C:1]([C:2]([N:4]([H:8])[H:9])=[O:7])([C:3]([N:5]([H:10])[H:11])=[C:6]([H:14])[H:15])([H:12])[H:13]>>[C:1](=[C:3]([N:5]([H:10])[H:11])[C:6]([C:2]([N:4]([H:8])[H:9])=[O:7])([H:14])[H:15])([H:12])[H:13],70.53413750001496
MR_129359_0,[C:1]([C:4](/[C:3]([N:5]([H:8])[H:9])=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])=[N:7]/[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:3]([N:5]([H:8])[H:9])[C@@:6]([C:2]([H:15])([H:16])[H:17])([H:11])[N:7]1[H:10])([H:12])([H:13])[H:14],47.93911749999111
MR_126174_0,[C:1]([C:4](=[N:6]\[H:14])/[C:7](=[C:3](\[C:2]([N:5]([H:12])[H:13])([O:8][H:10])[H:15])[O:9][H:11])[H:16])([H:17])([H:18])[H:19]>>[C:1](/[C:4]([N:6]([H:14])[H:15])=[C:7]([C:3](=[C:2](\[N:5]([H:12])[H:13])[O:8][H:10])/[O:9][H:11])\[H:16])([H:17])([H:18])[H:19],29.23271499999416
MR_18125_0,[C:1]1([C:3]([H:11])([H:12])[H:13])([C:5]([O:7][H:9])=[O:8])[C:2]([C:4]([H:14])([H:15])[H:16])([H:10])[O:6]1>>[C:1]([C:2]([C:4]([H:14])([H:15])[H:16])([C:5]([O:7][H:9])=[O:8])[H:10])([C:3]([H:11])([H:12])[H:13])=[O:6],58.70952749997841
MR_474460_1,[C:1]1([N:3]([H:10])[H:11])([O:5][H:9])[N:6]=[N:8][C:2]([N:4]([H:12])[H:13])=[N:7]1>>[C:1]([N:3]([H:10])[H:11])(=[O:5])/[N:6]=[N:8]\[C:2]([N:4]([H:12])[H:13])=[N:7]/[H:9],44.380564999986944
MR_450758_0,[C:1]([C:2]([O:4][N:3]([H:11])[H:12])=[O:7])([O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([C:2](=[O:7])[H:10])([O:4][N:3]([H:11])[H:12])([O:5][H:8])[O:6][H:9],55.85126499998964
MR_359093_0,[C:1]([C:2]([O:7][H:9])([H:12])[H:13])([C:3]([C:6](=[O:8])[H:16])([H:14])[H:15])([C:4]([H:17])([H:18])[H:19])[N:5]([H:10])[H:11]>>[C:1](\[C:3]([C:6]([C:2]([O:7][H:9])([H:12])[H:13])([O:8][H:11])[H:16])([H:14])[H:15])([C:4]([H:17])([H:18])[H:19])=[N:5]/[H:10],60.96978249997889
MR_191989_1,[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([N:5]([H:14])[H:15])([O:6][O:7][H:10])[O:9][H:11])[H:13])(=[O:8])[H:12]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([N:5]([H:14])[H:15])=[O:9])[H:13])([O:6][O:7][H:10])([O:8][H:11])[H:12],16.891672500013044
MR_349635_0,[C:1]([O:3][N:4]=[C:2]([H:7])[H:8])(=[O:5])[H:6]>>[C:1](=[O:3])([O:5][N:4]=[C:2]([H:7])[H:8])[H:6],39.82428750000494
MR_313566_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([N:4]([H:9])[H:10])/[C:6](=[C:5](/[O:7][H:8])[H:11])[H:12]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])=[C:6]([C@@:5]([N:4]([H:9])[H:10])([O:7][H:8])[H:11])[H:12],69.36824249999802
MR_83667_1,[C:1]([C:4]([H:17])([H:18])[H:19])([C:6]([N:5]([C:2]([H:11])([H:12])[H:16])[C:3]([H:13])([H:14])[H:15])=[C:7]([H:20])[H:21])([O:8][H:9])[H:10]>>[C:1]([C:4]([H:17])([H:18])[H:19])([C:6]([N:5]([C:2]([H:11])([H:12])[H:16])[C:3]([H:13])([H:14])[H:15])([C:7]([H:9])([H:20])[H:21])[H:10])=[O:8],65.44950499997583
MR_136797_2,[C:1]([C:3]([C:5]([C:2]([O:8][H:11])([H:15])[H:16])([C:4]([N:6]([H:13])[H:14])([H:19])[H:20])[O:9][H:10])([H:17])[H:18])(=[O:7])[H:12]>>[C:1]([C:2]([O:8][H:11])([H:15])[H:16])([C:3]([C:5]([C:4]([N:6]([H:13])[H:14])([H:19])[H:20])=[O:9])([H:17])[H:18])([O:7][H:10])[H:12],65.97597749996638
MR_37009_2,[C:1]1(/[C:6](=[C:5](\[O:7][H:8])[H:13])[H:14])([H:9])[C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[C:3]1([H:11])[H:12]>>[C:1](\[C:3]([C:2]([C:4]([H:15])([H:16])[H:17])([H:8])[H:10])([H:11])[H:12])(=[C:6](\[C:5](=[O:7])[H:13])[H:14])[H:9],43.18643250000562
